US07157487B2
In methanol (30 ml) was dissolved methyl (4-amino-2-fluoro-3-hydroxyphenyl)acetate (1.0 g, 5.02 mmol). To the resulting solution was added 4-fluoro-2-methylphenyl isothiocyanate (0.74 ml, 5.23 mmol). After the mixture was stirred at room temperature for 5 days, mercuric oxide (yellow) (1.14 g, 4.36 mmol) was added thereto. The mixture was stirred at 70° C. for 6 hours. After cooling to room temperature, the reaction mixture was filtered through Celite and washed with methanol. The filtrate was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from chloroform/ethyl acetate (30/1) eluate fractions, methyl (2-(4-fluoro-2-methylphenylamino)-7-fluoro-6-benzoxazolyl)acetate (1.32 g, 91%) was obtained as a colorless solid.

reactant | methyl (4-amino-2-fluoro-3-hydroxyphenyl)acetate | 5.02 mmol, 1.0 g | NC1=C(C(=C(C=C1)CC(=O)OC)F)O | C9H10FNO3
reactant | 4-fluoro-2-methylphenyl isothiocyanate | 5.23 mmol, 0.74 ml | FC1=CC(=C(C=C1)N=C=S)C | C8H6FNS
solvent | methanol | 30 ml | CO | CH4O
product | methyl (2-(4-fluoro-2-methylphenylamino)-7-fluoro-6-benzoxazolyl)acetate | 1.32 g, 91% | FC1=CC(=C(C=C1)NC=1OC2=C(N1)C=CC(=C2F)CC(=O)OC)C | C17H14F2N2O3
